US08609715B2
Step 2. Synthesis of 3-(5-carboxythiophen-2-yl)-2,2-dimethylpropanoic acid
Diisopropylamine (478 μL, 3.40 mmol) was dissolved in tetrahydrofuran (2.0 mL), the mixture was stirred at −78° C. for 15 minutes, and 2.6N n-butyllithium/hexane solution (1.31 mL, 3.40 mmol) was added dropwise. After dropwise addition, the mixture was stirred at 0° C. for 30 minutes, and isobutyric acid (158 μL, 1.70 mmol) was added dropwise at −78° C. After the completion of the dropwise addition, the mixture was stirred at 0° C. for 20 minutes, 5-chloromethylthiophene-2-carboxylic acid tert-butyl ester (360 mg, 1.55 mmol) dissolved in tetrahydrofuran (1.5 mL) was added at 0° C., and the mixture was stirred at room temperature overnight. Ethyl acetate and 1N aqueous hydrochloric acid solution were added to the reaction mixture, the mixture was partitioned, and the organic layer was separated. The aqueous layer was extracted three times with ethyl acetate, and the organic layers was combined and washed with saturated brine. The organic layer was dried over magnesium sulfate, and the solvent was evaporated to give the title compound as a crude product.

reactant | Diisopropylamine | 3.40 mmol, 478 μL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium hexane | 3.40 mmol, 2.6N, 1.31 mL | C(CCC)[Li].CCCCCC
reactant | isobutyric acid | 1.70 mmol, 158 μL | C(C(C)C)(=O)O | C4H8O2
reactant | 5-chloromethylthiophene-2-carboxylic acid tert-butyl ester | 1.55 mmol, 360 mg | C(C)(C)(C)OC(=O)C=1SC(=CC1)CCl | C10H13ClO2S
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 2.0 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.5 mL | O1CCCC1 | C4H8O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(5-carboxythiophen-2-yl)-2,2-dimethylpropanoic acid | C(=O)(O)C1=CC=C(S1)CC(C(=O)O)(C)C | C10H12O4S
